US08168823B2
L-Carnitine (I, R═CH3, Q=—CH2—CHOH—CH2—)
Sodium hydroxide (17.6 g, 0.44 mol, ca. 2 eq.) was dissolved in water (240 g). Aqueous tri-methylamine (25%, 61.3 g, ca. 1.2 eq.) was added with cooling. The resulting mixture was cooled to 0° C. and ethyl (R)-4-chloro-3-hydroxybutyrate (content 100%, 36 g, 0.216 mol) was added dropwise within 3 h to the stirred reaction mixture. After one additional hour at 0° C. the reaction mixture was warmed to +20° C. and analyzed by HPLC

reactant | Sodium hydroxide | 0.44 mol, 17.6 g, ca. 2 eq. | [OH-].[Na+]
reactant | tri-methylamine | 61.3 g, ca. 1.2 eq. | CN(C)C | C3H9N
reactant | ethyl (R)-4-chloro-3-hydroxybutyrate | 0.216 mol, 36 g | ClC[C@@H](CC(=O)OCC)O | C6H11ClO3
solvent | water | 240 g | O | H2O
product | L-Carnitine | O[C@@H](C[N+](C)(C)C)CC([O-])=O | C7H15NO3
